US04221919
3-chloro-4-(3'-methyl-4'-isopropoxybenzyloxy) phenylacetic acid was prepared in 35.2% yield, m.p. 104°-105° C. (methanol) by reaction of 3-methyl-4-isopropoxybenzyl chloride with methyl 3-chloro-4-hydroxyphenylacetate.

reactant | 3-methyl-4-isopropoxybenzyl chloride | CC=1C=C(CCl)C=CC1OC(C)C | C11H15ClO
reactant | methyl 3-chloro-4-hydroxyphenylacetate | ClC=1C=C(C=CC1O)CC(=O)OC | C9H9ClO3
solvent | methanol | CO | CH4O
product | 3-chloro-4-(3'-methyl-4'-isopropoxybenzyloxy) phenylacetic acid | 35.2% yield | ClC=1C=C(C=CC1OCC1=CC(=C(C=C1)OC(C)C)C)CC(=O)O | C19H21ClO4
